US05536716
Step A: 1'-(t-butyloxycarbonyl)3,4-dihydro-3-oxospiro[1H-indene-1,4'-piperidine]
To a solution of 661 mg (2.31 mmol) of 1'-(t-butyloxycarbonyl)spiro[1H-indene-1,4'-piperidine][prepared by the method of Chambers, et al, J. Med. Chem., 1992, 35, 2036]in 5.0 ml of THF was added 5.8 ml (1.0 M THF, 2.9 mmol) of 9-BBN. The reaction mixture was heated at 70° C. until TLC analysis indicated that the starting material was consumed. The solution was concentrated and the residue was dissolved in dichloromethane. The solution was cooled to 0° C. and 4.1 g (19.2 mmol) of PCC was added slowly over 15 minutes. The reaction mixture was warmed to room temperature and then to reflux for 30 minutes. The solution was then diluted with ether and filtered through a pad of a mixture of celite and florisil. Purification by flash chromotgraphy (silica gel, hexane/ethyl acetate, 4:1) gave 326 mg (47%) of the title compound.

reactant | 1'-(t-butyloxycarbonyl)spiro[1H-indene-1,4'-piperidine] | 2.31 mmol, 661 mg | C(C)(C)(C)OC(=O)N1CCC2(CC1)C=CC1=CC=CC=C12 | C18H23NO2
reactant | THF | C1CCOC1 | C4H8O
reactant | 9-BBN | 2.9 mmol, 1.0 M, 5.8 ml | B1C2CCCC1CCC2 | C8H15B
reactant | PCC | 19.2 mmol, 4.1 g | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
solvent | ether | CCOCC | C4H10O
product | 1'-(t-butyloxycarbonyl)3,4-dihydro-3-oxospiro[1H-indene-1,4'-piperidine] | 326 mg, 47% | C(C)(C)(C)OC(=O)N1CCC2(CC1)CC(C1CC=CC=C12)=O | C18H25NO3
